US08217045B2
Step 8.1: 3-[[2-[(Cyclopropylcarbonyl)amino]-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester
A mixture of 3-[[2-chloro-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester (0.188 g, 0.60 mmol), cyclopropanecarboxamide (0.077 g, 0.90 mmol), Cs2CO3 (0.274 g, 0.84 mmol), 1,1′-(9,9-dimethyl-9H-xanthene-4,5-diyl)bis[1,1-diphenylphosphine (0.035 g, 0.06 mmol; xantphos; Aldrich) and Pd2(dba)3 (0.018 g, 0.020 mmol) in dioxane (6 mL) is stirred at 90° C. for 16 h under an argon atmosphere. The cooled mixture is treated with saturated aqueous NH4Cl (50 mL) and extracted with ethyl acetate. The combined extracts are washed (brine), dried (Na2SO4) and the solvent is evaporated off under reduced pressure to give a crude product, which is purified by column chromatography (SiO2; ethylacetate/hexane 1:1) to afford the title compound as a viscous oil.

reactant | 3-[[2-chloro-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester | 0.60 mmol, 0.188 g | ClC1=NC=CC(=C1)OC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C17H12ClNO3
reactant | cyclopropanecarboxamide | 0.90 mmol, 0.077 g | C1(CC1)C(=O)N | C4H7NO
reactant | Cs2CO3 | 0.84 mmol, 0.274 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.020 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[[2-[(Cyclopropylcarbonyl)amino]-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester | C1(CC1)C(=O)NC1=NC=CC(=C1)OC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C21H18N2O4
